US07741321B2
To a solution of 6-(chloromethyl)-4-methoxybenzo[d][1,3]dioxole (10.2 g, 40 mmol) in DMSO (100 mL) was added NaCN (2.43 g, 50 mmol) at room temperature. The mixture was stirred for 3 h and poured into water (500 mL). The aqueous phase was extracted with EtOAc (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated to give the crude product, which was washed with ether to afford 2-(7-methoxybenzo[d][1,3]dioxol-5-yl)acetonitrile (4.6 g, 45%). 1H NMR (400 MHz, CDCl3) δ 6.49 (s, 2H), 5.98 (s, 2H), 3.91 (s, 3H), 3.65 (s, 2H). 13C NMR (400 MHz, CDCl3) δ 148.9, 143.4, 134.6, 123.4, 117.3, 107.2, 101.8, 101.3, 56.3, 23.1.

reactant | 6-(chloromethyl)-4-methoxybenzo[d][1,3]dioxole | 40 mmol, 10.2 g | ClCC=1C=C(C2=C(OCO2)C1)OC | C9H9ClO3
reactant | NaCN | 50 mmol, 2.43 g | [C-]#N.[Na+]
reactant | water | 500 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-(7-methoxybenzo[d][1,3]dioxol-5-yl)acetonitrile | 4.6 g, 45% | COC1=CC(=CC2=C1OCO2)CC#N | C10H9NO3
